US09023840B2
Step 3: 4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2-fluoro-N-isopropylbenzamide
4-{3-(Cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2-fluoro-N-isopropylbenzamide (0.7 g, 1.19 mmol) was dissolved in methylene chloride (5.0 mL) and to this was added trifluoroacetic acid (5.0 mL) and the solution was stirred at room temperature for 1 hour. LC/MS data indicated that the main reaction component was the desired product (LCMS (M+H)+: m/z=489.2). The volatiles were removed in-vacuo and the residue was azeotropically washed with acetonitrile (3×10 mL). The resulting residue was dissolved in methanol (4 mL) followed by the addition of ethylenediamine (400 μL) and ammonium hydroxide (1.2 mL). After stirring at room temperature for 2 hours, LC/MS data indicated that the main reaction component was the desired product. The crude reaction mixture was purified by RP-HPLC (pH=2) to afford the desired product as TFA salt. LCMS (M+H)+: m/z=459.2. 1H NMR (500 MHz, CD3OD): δ 9.09 (s, 1H), 8.90 (s, 1H), 8.56 (s, 1H), 7.85 (d, J=3.7 Hz, 1H), 7.66 (t, J=8.5 Hz, 1H), 7.33 (d, J=3.8 Hz, 1H), 6.47 (dd, J=8.6, 2.2 Hz, 1H), 6.39 (dd, J=13.5, 2.2 Hz, 1H), 4.61 (d, J=8.8 Hz, 2H), 4.44 (d, J=8.8 Hz, 2H), 4.22-4.13 (m, 1H), 3.68 (s, 2H), 1.23 (d, J=6.6 Hz, 6H).

reactant | 4-{3-(Cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2-fluoro-N-isopropylbenzamide | 1.19 mmol, 0.7 g | C(#N)CC1(CN(C1)C1=CC(=C(C(=O)NC(C)C)C=C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C30H37FN8O2Si
reactant | trifluoroacetic acid | 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2-fluoro-N-isopropylbenzamide | C(#N)CC1(CN(C1)C1=CC(=C(C(=O)NC(C)C)C=C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C24H23FN8O
